US09427475B2
Step A: 2,2′-[(2-{[3-(benzyloxy)-3-oxopropyl]amino}-2-oxoethyl)imino]diacetic acid
To an ice bath cooled solution of benzyl 3-aminopropanoate hydrochloride (4.49 g, 20.8 mmol) in DMF (30 mL) was added K2CO3 (3.02 g, 21.84 mmol) and the resulting mixture was stirred at o° C. for 2 hr. The mixture was then filtered and the filtrate was added to an ice bath cooled solution of 2-(2,6-dioxomorpholino)acetic acid (4.47 g, 25.8 mmol) in DMF (30 mL). The resulting mixture was stirred at 0° C. for 30 min, then at rt for 2 hr. The reaction was quenched by the addition of water (30 mL) and the resulting mixture was concentrated. The residue was stirred with water (40 mL), and the resulting precipitate was collected through filtration and dried to give the title compound. 1H NMR (DMSO-d6) δ 2.53 (t, J=6.8, 2H), 3.27 (s, 2H), 3.36 (q, J=6.2, 2H), 3.42 (m, m 2H), 3.49 (s, 2H), 5.09 (s, 2H), 7.28 (m, 4H), 8.16 (m, 1H), 12.45 (br s, 2H).

reactant | benzyl 3-aminopropanoate hydrochloride | 20.8 mmol, 4.49 g | Cl.NCCC(=O)OCC1=CC=CC=C1
reactant | K2CO3 | 21.84 mmol, 3.02 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-(2,6-dioxomorpholino)acetic acid | 25.8 mmol, 4.47 g | O=C1OC(CN(C1)CC(=O)O)=O | C6H7NO5
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2,2′-[(2-{[3-(benzyloxy)-3-oxopropyl]amino}-2-oxoethyl)imino]diacetic acid | C(C1=CC=CC=C1)OC(CCNC(CN(CC(=O)O)CC(=O)O)=O)=O | C16H20N2O7
